US05488149
0.70 g of (1RS, 2SR)-2-(4-bromophenyl)-3-(4-chlorophenyl)-1-methylpropanol was dissolved in 7 ml of dimethylformamide, and 0.34 g of tert-butyldimethylchlorosilane and 0.18 g of imidazole were added thereto. The mixture was stirred at room temperature overnight. The reaction solution was poured into a saturated sodium hydrogencarbonate aqueous solution and extracted by an addition of ethyl ether. Then, the organic layer was washed with a saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. The drying agent was separated by filtration, and then the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (hexane) to obtain 0.70 g (yield: 75%) of [(2RS, 3SR)-3-(4-bromophenyl)-2-(tert-butyldimethylsilyloxy)-4-(4-chlorophenyl)butane as colorless oily substance.

reactant | (1RS, 2SR)-2-(4-bromophenyl)-3-(4-chlorophenyl)-1-methylpropanol | 0.70 g | BrC1=CC=C(C=C1)C(C(O)C)CC1=CC=C(C=C1)Cl | C16H16BrClO
reactant | tert-butyldimethylchlorosilane | 0.34 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 0.18 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | (2RS, 3SR)-3-(4-bromophenyl)-2-(tert-butyldimethylsilyloxy)-4-(4-chlorophenyl)butane | yield: 75% | BrC1=CC=C(C=C1)C(C(C)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)Cl | C22H30BrClOSi
